US07101892B2
1,1-Bis(phenylsulfonyl)cyclobutane
A mixture of bis(phenylsulfonyl)methane (30 g, 100 mmol), tetra-n-butylammonium bromide (3 g, 9.3 mmol), 1,3-dibromopropane (30 ml), dichloromethane (600 ml) and 50% aqueous sodium hydroxide (150 ml) was stirred at room temperature for 3 days. The mixture was poured onto saturated aqueous ammonium chloride solution and extracted into dichloromethane. The combined organic extracts were dried (Na2SO4) and concentrated. The residue was crystallised from i-hexane:diethyl ether to give the title product as a white solid. Yield−24 g (71%).

reactant | bis(phenylsulfonyl)methane | 100 mmol, 30 g | C1(=CC=CC=C1)S(=O)(=O)CS(=O)(=O)C1=CC=CC=C1 | C13H12O4S2
reactant | 1,3-dibromopropane | 30 ml | BrCCCBr | C3H6Br2
reactant | sodium hydroxide | 150 ml | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | tetra-n-butylammonium bromide | 9.3 mmol, 3 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | 1,1-Bis(phenylsulfonyl)cyclobutane | C1(=CC=CC=C1)S(=O)(=O)C1(CCC1)S(=O)(=O)C1=CC=CC=C1 | C16H16O4S2
